US05098930
Using the procedure described in the first paragraph of Note e. below Table IV in Example 15, 2-naphthalenemethanol was reacted with 3-fluoro-5-trifluoromethylbromobenzene to give 3-(naphth-2-ylmethoxy)-5-trifluoromethylbromobenzene (80%), m.p. 68°-70° C.

reactant | 2-naphthalenemethanol | C1=C(C=CC2=CC=CC=C12)CO | C11H10O
reactant | 3-fluoro-5-trifluoromethylbromobenzene | FC=1C=C(C=C(C1)C(F)(F)F)Br | C7H3BrF4
product | 3-(naphth-2-ylmethoxy)-5-trifluoromethylbromobenzene | 80% | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=C(C1)C(F)(F)F)Br | C18H12BrF3O
